US07084160B2
A solution of ethyl 6-amino-nicotinate (830 mg, 5 mmol) and benzoyl isothiocyanate (830 mg, 5.1 mmol) in acetone was refluxed for 2 h. The mixture was concentrated to thin slurry and methanol was added. The solid was filtered, washed with methanol and dried to afford ethyl 6-(3-benzoyl-thioureido)-nicotinate (1.35 g, 82%). 1H NMR (CDCl3) δ 13.34 (s, 1 H), 9.04 (m, 3 H), 8.38 (s, 1 H), 7.93 (m, 2 H), 7.66 (m, 3 H), 4.42 (q, 2 H, J=7.6 Hz), 1.41(t, 3 H, J=7.6 Hz).

reactant | ethyl 6-amino-nicotinate | 5 mmol, 830 mg | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
reactant | benzoyl isothiocyanate | 5.1 mmol, 830 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 6-(3-benzoyl-thioureido)-nicotinate | 1.35 g, 82% | C(C1=CC=CC=C1)(=O)NC(NC1=NC=C(C(=O)OCC)C=C1)=S | C16H15N3O3S
